US08497281B2
Step 2: 2,2,2-trifluoro-1-(cis-6-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone
Boron tribromide (1 mol/L in heptane, 27 mL) is added to a solution of 2,2,2-trifluoro-1-(cis-6-methoxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone (8.1 g) in dichloromethane (120 mL) chilled in an ice bath. The resulting mixture is warmed in the cooling bath to room temperature overnight. The solution is cooled again in an ice bath, diluted with dichloromethane (50 mL), and then 25% aqueous K2CO3 (20 mL) is carefully added. The mixture is stirred for 30 min and then acidified by the addition of 4 M aqueous hydrochloric acid (60 mL). The organic phase is separated, washed with 1 M aqueous hydrochloric acid (40 mL), and dried (MgSO4). The solvent is evaporated to give the title compound as a solid. Yield: 7.3 g (95% of theory); LC (method 1): tR=3.43 min; Mass spectrum (ESI+): m/z=286 [M+H]+.

reactant | Boron tribromide | 1 mol/L, 27 mL | B(Br)(Br)Br | BBr3
reactant | 2,2,2-trifluoro-1-(cis-6-methoxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone | 8.1 g | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)OC)(F)F | C15H16F3NO2
reactant | K2CO3 | 20 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrochloric acid | 4 M, 60 mL | Cl | ClH
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-1-(cis-6-hydroxy-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-ethanone | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)O)(F)F | C14H14F3NO2
